US07378448B2
Combine benzylamine (17 mg, 0.16 mmol), 6-(4-formyl-phenylsulfanyl)-nicotinamide (40 mg, 0.16 mmol), 3 Å molecular sieves (0.1 g), and methanol (3 mL) and stir overnight at room temperature. Filter off the sieves then add sodium borohydride (25 mg, 0.64 mmol) to the reaction and stirred at room temperature for 1 hour. Pour the reaction into water then extract with ethyl acetate (3×10 mL). The combined ethyl acetate extracts were dried over sodium chloride/magnesium sulfate, filtered, and concentrated on a rotary evaporator to yield the crude product (50 mg). The crude product was purified by flash column chromatography on silica gel eluting with 10% aqueous ammonium hydroxide in ethanol and chloroform to yield 6-[4-(benzylamino-methyl)-phenylsulfanyl]-nicotinamide, (24 mg): m/z=349.99(M+1); 1H NMR (MeOD, 300.00 MHz): (8.84 (dd, 1H, J=2.3, 1.0 Hz), 8.02 (dd, 1H, J=8.6, 2.3 Hz), 7.66-7.49 (m, 4H), 7.66-7.49 (m, 4H), 7.42-7.34 (m, 5H), 6.99-6.92 (m, 1H), 3.88-3.77 (m, 4H). HPLC=99% @ 5.82 minutes (5/95 to 95/5 ACN/(0.1% TFA in water) over 10 minutes, Zorbax SB-Phenyl 4.6 mm×15 cm×5 micron, λ=254 nM. By the method of Example 7 the following compounds were prepared, isolated as the free base except where noted:

reactant | benzylamine | 0.16 mmol, 17 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | 6-(4-formyl-phenylsulfanyl)-nicotinamide | 0.16 mmol, 40 mg | C(=O)C1=CC=C(C=C1)SC1=NC=C(C(=O)N)C=C1 | C13H10N2O2S
reactant | methanol | 3 mL | CO | CH4O
reactant | sodium borohydride | 0.64 mmol, 25 mg | [BH4-].[Na+]
solvent | water | O | H2O
product | 6-[4-(benzylamino-methyl)-phenylsulfanyl]-nicotinamide | 24 mg | C(C1=CC=CC=C1)NCC1=CC=C(C=C1)SC1=NC=C(C(=O)N)C=C1 | C20H19N3OS
